US07754729B2
N-(4-(3-ethynylphenylamino)quinazolin-6-yl)-2-(1-methylpiperidin-4-ylidene)acetamide
N-(4-(3-ethynylphenylamino)quinazolin-6-yl)-2-(piperidin-4-ylidene)acetamide (20 mg, 0.046 mmol), methyl iodide (8.0 mg, 0.056 mmol), anhydrous potassium carbonate (17 mg), and acetonitrile (5 mL) were placed in a one-neck flask (50 mL). The reaction mixture was stirred at room temperature for 24 hours. After reaction completion, the solution was filtered, and evaporated in vacuo to give a solid. The solid was purified by TLC (silica gel plate, thickness 5 mm, chloroform:methanol=95:5). MS: 398 (M+1).

reactant | N-(4-(3-ethynylphenylamino)quinazolin-6-yl)-2-(piperidin-4-ylidene)acetamide | 0.046 mmol, 20 mg | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=C1CCNCC1)=O | C23H21N5O
reactant | methyl iodide | 0.056 mmol, 8.0 mg | CI | CH3I
reactant | potassium carbonate | 17 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-(4-(3-ethynylphenylamino)quinazolin-6-yl)-2-(1-methylpiperidin-4-ylidene)acetamide | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=C1CCN(CC1)C)=O | C24H23N5O
